US08735589B2
Preparation of N-[2-ethynyl-4-(2-methylsulfamoyl-ethyl)-phenyl]-acetamide
N-[4-(2-methylsulfamoyl-ethyl)-2-trimethylsilanylethynyl-phenyl]-acetamide (100 g) was dissolved in ethanol (1000 ml) at 25° C. and cooled to 15-20° C. Potassium hydroxide (20 gm) was added slowly maintaining temperature below 25° C., stirred for 2-3 hours and cooled to 10-15° C. pH of the reaction mixture was adjusted to 5 with 10% dilute HCl and concentrated under vacuum below 40° C. to obtain a residue. The residue was dissolved in water (250 ml) and extracted with dichloromethane (2000 ml). The organic layer was washed with water and concentrated under vacuum to obtain a residue. The residue was treated with heptane (200 ml) to obtain a solid which was filtered and dried under vacuum at 50-55° C. for 12 hours. (Yield: 70 g, HPLC Purity: 99%)

reactant | N-[4-(2-methylsulfamoyl-ethyl)-2-trimethylsilanylethynyl-phenyl]-acetamide | 100 g | CNS(=O)(=O)CCC1=CC(=C(C=C1)NC(C)=O)C#C[Si](C)(C)C | C16H24N2O3SSi
reactant | Potassium hydroxide | 20 gm | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | heptane | 200 ml | CCCCCCC | C7H16
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
product | N-[2-ethynyl-4-(2-methylsulfamoyl-ethyl)-phenyl]-acetamide | C(#C)C1=C(C=CC(=C1)CCS(NC)(=O)=O)NC(C)=O | C13H16N2O3S
